US04921855
To a stirred suspension of sodium hydride (336 mg : 60% dispersion in oil) in anhydrous tetrahydrofuran (12 ml) was added a solution of 3-(N-t-butoxycarbonyl-N-methylamino)propyl methanesulfonate (2.139 g) in tetrahydrofuran (10 ml) dropwise over 5 minutes. After being stirred for 30 minutes, the mixture was cooled to 0° C., and 2-methyl-1-propanethiol (758 mg) was added dropwise at 0°-5° C. The mixture was then allowed to warm to ambient temperature and stirred for 24 hours. Additional 168 mg of sodium hydride and 379 mg of 2-methyl-1-propanethiol was added above the same condition. After being stirred for another 16 hours, the solvent was evaporated and the resulting residue was dissolved in ethyl acetate (100 ml). The solution was washed with 0.5N hydrochloric acid (100 ml water (100 ml), aqueous sodium bicarbonate (100 ml), water (100ml), and brine (100 ml) successively, dried over magnesium sulfate and concentrated. The residue was chromatographed on silica gel eluting with a mixture of n-hexane and ethyl acetate (6:4 V/V) to give 3-(N-t-butoxycarbonyl-N-methylamino)propyl isobutyl sulfide (595 mg) as an oil.

reactant | sodium hydride | 336 mg | [H-].[Na+]
reactant | 3-(N-t-butoxycarbonyl-N-methylamino)propyl methanesulfonate | 2.139 g | CS(=O)(=O)OCCCN(C)C(=O)OC(C)(C)C | C10H21NO5S
reactant | 2-methyl-1-propanethiol | 758 mg | CC(CS)C | C4H10S
reactant | sodium hydride | 168 mg | [H-].[Na+]
reactant | 2-methyl-1-propanethiol | 379 mg | CC(CS)C | C4H10S
solvent | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 3-(N-t-butoxycarbonyl-N-methylamino)propyl isobutyl sulfide | 595 mg | C(C(C)C)SCCCN(C)C(=O)OC(C)(C)C | C13H27NO2S
